US07538134B2
4-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]aniline
To a solution of aniline (1.32 g, 14.19 mmol) in tert-butyl methyl ether (25 ml) and water (25 ml) was added sequentially 2-iodoheptafluoropropane (5.00 g, 17.06 mmol), sodium thiosulphate (3.50 g, 17.06 mmol), sodium hydrogen carbonate (1.73 g, 17.06 mmol) and tetrabutylammonium hydrogen sulphate (0.53 g, 17.06 mmol). The reaction mixture was stirred at room temperature for 18 h and the two layers were separated. The aqueous layer was extracted with ethyl acetate and the combined organic phases were washed with hydrochloric acid (2N), aqueous sodium hydrogen carbonate solution and brine, dried (MgSO4) and concentrated in vacuo to give the titled compound (1.00 g).

reactant | aniline | 14.19 mmol, 1.32 g | NC1=CC=CC=C1 | C6H7N
reactant | 2-iodoheptafluoropropane | 17.06 mmol, 5.00 g | IC(C(F)(F)F)(C(F)(F)F)F | C3F7I
reactant | sodium thiosulphate | 17.06 mmol, 3.50 g | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydrogen carbonate | 17.06 mmol, 1.73 g | C(O)([O-])=O.[Na+]
solvent | tert-butyl methyl ether | 25 ml | COC(C)(C)C | C5H12O
solvent | water | 25 ml | O | H2O
catalyst | tetrabutylammonium hydrogen sulphate | 17.06 mmol, 0.53 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 4-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]aniline | 1.00 g | FC(C(F)(F)F)(C(F)(F)F)C1=CC=C(N)C=C1 | C9H6F7N
